US05869509
4-(5-Chloro-2-methoxyphenyl)-5-[3,5-bis(trifluoromethyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one (I11 : X=Cl, n=0, R1 =R3 =CF3, R2 =H)
N-(5-Chloro-2-methoxyphenyl)-3,5-bis(trifluoromethyl) benzene carbohydrazonamide (4 g, 9.7 mmol) was taken up in THF (600 ml) under N2, and 1,1'-carbonyldiimidazole (1.9 g, 11.72 mmol) added. The solution was stirred for 18 h at 24° C. before solvent was removed by rotary evaporation. The residue was taken up in ethyl acetate (400 ml) and washed with 0.1N HCl solution (100 ml), water (100 ml) and brine prior to drying over MgSO4. Recrystallization from acetonitrile gave 2.92 g (68.6%) mp 205.5°-207° C. IR(KBr, ν=cm-1) 3170, 3057, 1726,1504, 1277, 1128; 1H NMR (300 MHz, DMSO-d6) δ3.48 (3H, s), 7.15 (1H, d, J=9.0 Hz), 7.55 (1H, dd, J=8.9 Hz, 2.6 Hz), 7.69 (1H, d, J=2.6 Hz), 7.87 (2H, br.s), 8.17 (1H, br.s), 12.50 (1H, br.s); MS(DCl)m/z: 438(MH+). Anal. calcd. for C17H10ClF6N3O2 : C, 46.65; H, 2.30; N, 9.60. Found: C, 46.71; H, 2.20; N, 9.60.

reactant | N-(5-Chloro-2-methoxyphenyl)-3,5-bis(trifluoromethyl) benzene carbohydrazonamide | 9.7 mmol, 4 g | ClC=1C=CC(=C(C1)NC(=NN)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)OC | C16H12ClF6N3O
reactant | 1,1'-carbonyldiimidazole | 11.72 mmol, 1.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | KBr | [K+].[Br-]
solvent | THF | 600 ml | C1CCOC1 | C4H8O
product | 4-(5-Chloro-2-methoxyphenyl)-5-[3,5-bis(trifluoromethyl)phenyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | ClC=1C=CC(=C(C1)N1C(NN=C1C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)OC | C17H10ClF6N3O2
